US04618607
To 130 ml of benzene are added 14.7 g of 1-phenyl-2-piperidinoethanol, 7.1 g of diketene and 1 ml of triethylamine. The mixture is refluxed under heating for three hours. The reaction mixture is concentrated under reduced pressure to give 22 g of 1-phenyl-2-piperidinoethyl acetoacetate. A mixture of 22 of 1-phenyl-2-piperidinoethyl acetoacetate, 10.6 g of m-nitrobenzaldehyde and 12.7 g of (2-furyl)methyl β-aminocrotonate in 130 ml of isopropanol is refluxed under heating for 12 hours. The reaction mixture is concentrated under reduced pressure. To the viscous jelly-like oily substance thus obtaned is added an ethanol solution of hydrogen chloride and then the mixture is concentrated. The viscous jelly-like residue is crystallized from a mixture solvent of acetone-ether. The precipitated crystals are collected by filtration, and recrystallized from a mixture solvent of acetone-methanol to give α-diastereoisomer of 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid-3-(2-furyl)methylester-5-(1-phenyl-2-piperidinoethyl)ester in the form of hydrochloride as yellow crystals melting at 219°-221° C. (decomposition).

reactant | benzene | 130 ml | C1=CC=CC=C1 | C6H6
reactant | 1-phenyl-2-piperidinoethanol | 14.7 g | C1(=CC=CC=C1)C(CN1CCCCC1)O | C13H19NO
reactant | diketene | 7.1 g | C=C1CC(=O)O1 | C4H4O2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 1-phenyl-2-piperidinoethyl acetoacetate | 22 g | C(CC(=O)C)(=O)OC(CN1CCCCC1)C1=CC=CC=C1 | C17H23NO3
